2148-11-05 07:02:00 Physician Resident Progress Note
Chief Complaint: Intracranial bleed/confusion
   24 Hour Events:
   - Had some itchiness after FFP had finished infusing.  Cleared
   spontaneously.
   - Poor gag reflex on admission to the floor.  Receiving all meds IV.
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2148-11-5**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-5**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 76 (76 - 88) bpm
   BP: 94/42(55) {85/33(47) - 118/70(80)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,000 mL
                                                                    626 mL
   PO:
           TF:
   IVF:
   50 mL
   Blood products:
   576 mL
   Total out:
                                                                  2,000 mL
                                                                  1,460 mL
   Urine:
   1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,000 mL
                                                                   -834 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   GENERAL: Cachectic male sleeping sitting up, awakes to verbal stimuli
   but falls asleep between questions.
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRL 4 to 2mm.
   Will not look to extreme right and with ?absent vision in right upper
   and lower fields. Mucous membranes dry. OP clear.
   Neck: Supple, no thyromegaly. Somewhat firm R sided posterior cervical
   lymph node, nontender and mobile.  No other adenopathy.
   CARDIAC: Regular rhythm with frequent PVCs, normal rate. Normal S1, S2.
   +prominent mechanical click. No murmurs, rubs or [**Last Name (un) 1011**].  JVP flat
   when upright.
   LUNGS: CTAB except for slight crackles at bilateral bases.
   ABDOMEN: NABS. Soft, ND.  No HSM.  Reports mild diffuse TTP, no
   rebound.
   EXTREMITIES: Slight non-pitting edema around ankles. No calf pain, 2+
   dorsalis pedis/ posterior tibial pulses.  No axillary adenopathy.
   Does have small bilateral subcentimeter inguinal nodes.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&O to person and year, not place or date. Appropriate. CN 2-12
   grossly intact except for ? slight right sided neglect. Preserved
   sensation throughout. Does not fully cooperate with strength exam, but
   appears symmetric - best exam currently [**4-7**] in elbow flex, extend,
   wrist extend, and grip in UEs and generally symmetric; 4-/5 in L dorsi
   and plantarflexion and [**4-7**] in R dorsi and plantarflexion. 1+ reflexes,
   equal BL. Gait assessment deferred
   PSYCH: Slow in responding to questions, otherwise appropriate.
   Labs / Radiology
   240 K/uL
   8.6 g/dL
   130 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.2 mEq/L
   18 mg/dL
   95 mEq/L
   134 mEq/L
   27.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2148-11-5**]  04:13 AM
   WBC
   6.6
   Hct
   27.0
   Plt
   240
   Cr
   0.9
   TropT
   0.05
   Glucose
   130
   Other labs: PT / PTT / INR:16.1/27.7/1.4, CK / CKMB /
   Troponin-T:24//0.05, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 INTRACEREBRAL HEMORRHAGE (ICH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   73yo male on coumadin and plavix because of a mechanical aortic valve
   and prior stroke, now with a new left parietal hemorrhage.  Appears to
   be at baseline mental status and no neurosurgical intervention needed
   at this time.
   .
   #. Intraparenchymal Bleed: Patient has new left parietal hemorrhage,
   seems to be contralateral to recent stroke.  Neurologically he does not
   appear far off of his baseline except for possibly possibly increased
   confusion and ?new visual changes (right hemianopsia likely could be
   explained by a bleed in this area).  He requires significant help with
   his ADL's and is very forgetful at baseline and it remains unclear how
   this added bleed will affect his prognosis.  Neurosurgery dos not want
   to intervene but recommends reversal of his anticoagulation.  If
   surgical intervention becomes appropriate, it is not clear if this
   would be an option pursued by HCP.  Appearance of bleed somewhat
   concerning for ?bleed into mass, but cannot be completely charactized
   at current time.
   - ?repeat imaging in AM.
   - given appearance of bleed, rads/neurosurg recommending MRI to eval
   for >?underlying mass, though unable to get given mechanical valve.
   Does have presumed active prostate cancer, ?met from this or other
   primary malignancy.  Need to check into old records from [**Hospital1 1233**] re:
   any previous structural disease in this area (presumably with previous
   imaging there).
   - appreciate neurosurg recs.
   - Q1H neuro checks.
   - Keppra for prophylaxis.
   - Maintain SBP < 140.
   - Holding clopidogrel and coumadin; getting 2 units FFP.  f/u neurosurg
   recs re: eventual appropriate time to restart anticoag.  s/p 10 mg IV
   vitamin K at OSH.  Significant risks having either continued
   intracranial bleed and/or embolic stroke with mechanical valve off
   anticoagulation explained to daughter/HCP.
   .
   # Confusion.  Per daughter, not far from post-CVA baseline.  Baseline
   disorientation with need for basically 24 hour care at home.  Unclear
   that this has been truly affected by new bleed.  Presumably new
   baseline the result of this stroke; also consider NPH (incontinence,
   poor gait), leptomeningeal disease, rapid progression of other type of
   dementia, depression seems less likely.  No evidence that this is
   infectious CNS disease.
   - Check TSH and LFTs.
   - Consider LP given the above.
   - Consider neuro input.
   - Eventual [**Hospital1 238**] screening.
   - Eventual OT/PT, possible repeat swallow eval.
   .
   # Weight loss.  Patient with unclear amount of recent weight loss
   despite adequate PO intake and severe cachexia on exam.  Prostate
   cancer apparently diagnosed but with unclear management.  Has a few
   areas of mild lymphadenopathy.
   - OSH/PCP [**Name Initial (PRE) **].
   - Consider CT torso to eval for undiagnosed malignancy.
   - Check PSA (if very elevated would explore for metastatic disease with
   ?brain met as above.
   - TSH.
   - Consider HIV if risk factors present.
   .
   #. CHF. Unclear status of this.  Mildly volume overloaded currently.
   Symptomatically appears to be stable.
   - Outside records.
   - ?need eventual beta blockade.
   - Lasix prn (particularly with blood products)
   .
   #. s/p mechanical AVR.  Daughter and patient do not know any more
   details about type of valve.
   - Oustide records.
   - Holding coumadin and reversing INR as above; neuro checks with
   increased risk for acute embolic stroke.
   .
   #. CAD.  Indeterminate troponin at OSH; no ECg changes, CK very low..
   - repeat enzymes in AM as trop 0.05 here.
   - Holding plavix (on due to ASA allergy)
   - ?eventual beta blockade or statin therapy.
   .
   # Microcytic anemia.
   - Check Fe studies.
   - Obtain baseline.
   .
   # DM.  Daughter reports on insulin but unclear how much.
   - med rec in AM when roommate/caretaker comes in.
   - ISS for now.
   .
   #. Lightheadedness.  Unable to describe further (not clearly vertigo).
   Admits to continued LH when asked, but otherwise does not complain of
   it.  [**Month (only) 51**] be feeling abnormal with change in vision likely due to new
   bleed.
   - continue to monitor.
   - neuro checks as above.
   .
   # ?LLL atelectasis vs. consolidation.  No clinical signs of pneumonia.
   - consider repeat CXR here, though holding off as not suspicion of
   infection at this point.
   .
   FEN: Had difficulty swallowing at baseline, though most recently has
   been off thickened liquids.  [**Month (only) 51**] need swallow consult to assess for
   further decline in swallowing capabilities, and then either PO diet or
   NG tube placement.
   .
   PPX:
   - Continue home PPI IV for now.
   - DVT ppx with pneumoboots
   .
   ACCESS: PIV's
   .
   CODE STATUS: Discussed with daughter.  Would like all acute care, but
   would probably not want long-term ventilation or intensive care.
   .
   EMERGENCY CONTACT: Daughter [**First Name8 (NamePattern2) 113**] [**Last Name (NamePattern1) 2875**] ([**Telephone/Fax (1) 11182**] or
   [**Telephone/Fax (1) 11183**]).
   .
   DISPOSITION: ICU pending stabilized neuro exam.  Possibly to the floor
   in the AM if neuro check frequency can be decreased.  Eventually needs
   screening.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-11-4**] 11:43 PM
   22 Gauge - [**2148-11-4**] 11:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-06 06:38:00 Physician Resident Progress Note
Chief Complaint: Weakness/Intracranial bleed
   24 Hour Events:
 BLOOD CULTURED - At [**2148-11-5**] 04:00 PM
   -Per family, patient eating without problems at home; gave ice chips,
   well tolerated
   -PCP [**Name Initial (PRE) 167**]; no workup done of weight loss, following screening PSAs
   -CXR: No large chest mass. Right lower lobe opacification suggest
   aspiration pneumonits.
   - Low grade fever: cultures drawn, started on Unasyn
   - CT head with contrast: unchanged hematoma with surrounding vasogenic
   edema, no obvious underlying mass
   - Family unsure about goals of care
   - Can he be q4 neuro checks?
   - LFTs ok, albumin low, iron studies suggest chronic inflmamation
   - Spoke with NSG -> ok with q4h neuro checks
   - OSH records (only labs and radiology): MRI Brain [**2148-9-5**] 1cm area of
   nonspecific enhancement, which cannot be ruled out for
   neoplastic/inflammatory disease (unlikely)
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2148-11-6**] 12:47 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-6**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 91 (79 - 96) bpm
   BP: 111/67(77) {96/53(67) - 117/78(86)} mmHg
   RR: 28 (15 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,184 mL
                                                                    303 mL
   PO:
                                                                    100 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    508 mL
                                                                    183 mL
   Blood products:
                                                                    576 mL
   Total out:
                                                                  2,600 mL
                                                                    250 mL
   Urine:
                                                                  2,600 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,416 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   GENERAL: Cachectic male sleeping sitting up, awakes to verbal stimuli
   but falls asleep between questions.
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRL 4 to 2mm.
   Will not look to extreme right. Mucous membranes dry. OP clear.
   CARDIAC: Regular rhythm with frequent PVCs, normal rate. Normal S1, S2.
   +prominent mechanical click. No murmurs, rubs or [**Last Name (un) 1011**].  JVP flat
   when upright.
   LUNGS: Clear on anterior exam.
   ABDOMEN: NABS. Soft, ND.  No HSM.  Reports mild diffuse TTP, no
   rebound.
   EXTREMITIES: Slight non-pitting edema around ankles. No calf pain, 2+
   dorsalis pedis/ posterior tibial pulses.
   NEURO: A&O to person and year, not place or date. Appropriate. CN 2-12
   grossly intact except for decreased vision, mostly on the right side,
   but also has difficulty answering questions about left-sided vision.
   Preserved sensation throughout. Does not fully cooperate with strength
   exam, but appears symmetric with 4/5 strength.  1+ reflexes, equal BL.
   Gait assessment deferred
   PSYCH: Slow in responding to questions, otherwise appropriate.
   Labs / Radiology
   260 K/uL
   8.9 g/dL
   111 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   22 mg/dL
   98 mEq/L
   134 mEq/L
   27.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2148-11-5**]  04:13 AM
                             [**2148-11-6**]  02:45 AM
   WBC
   6.6
   7.4
   Hct
   27.0
   27.0
   Plt
   240
   260
   Cr
   0.9
   0.8
   TropT
   0.05
   Glucose
   130
   111
   Other labs: PT / PTT / INR:13.5/26.3/1.2, CK / CKMB /
   Troponin-T:24//0.05, ALT / AST:19/25, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:86.9 %, Lymph:11.4 %, Mono:1.4 %, Eos:0.1 %,
   Albumin:2.9 g/dL, LDH:283 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   PSA undetectable, TSH 1.4
   CT Head w/ and w/o contrast:
   Unchanged left parietooccipital intraparenchymal hematoma surrounded by
   vasogenic edema measuring approximately 26 x 29 mm in size. Persistent
   areas of encephalomalacia in the subcortical white matter likely
   consistent with chronic microvascular ischemic changes and a prior left
   temporo-occipital infarction.
     AP CXR:
   IMPRESSION: No large chest mass. Right lower lobe opacification suggest
   aspiration pneumonits.
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 .H/O CANCER (MALIGNANT NEOPLASM), PROSTATE
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 INTRACEREBRAL HEMORRHAGE (ICH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   73yo male on coumadin and plavix because of a mechanical aortic valve
   and prior stroke, now with a new left parietal hemorrhage.  Appears to
   be at baseline mental status and no neurosurgical intervention needed
   at this time.
   .
   #. Intraparenchymal Bleed: Patient has new left parietal hemorrhage,
   seems to be contralateral to recent stroke.  Most concerning at this
   time is his possible right-sided hemianopsia, which likely could be
   explained by a bleed in this area.  He requires significant help with
   his ADL's and is very forgetful at baseline and it remains unclear how
   this added bleed will affect his prognosis.  His frequent neuro checks
   are to allow for prompt surgical intervention, but it is unclear if
   surgical intervention becomes appropriate whether his daughter would
   pursue that option.  Also concerning is that the appearance of bleed is
   concerning for an underlying mass.
   - Repeat head CT w/ contrast to assess for interval change and evidence
   of an underlying mass.  He cannot get an MRI because of his mechanical
   valve.
   - appreciate neurosurg recs.
   - Q1H neuro checks for now.  [**Month (only) 51**] lengthen if surgery is not a realistic
   option.
   - Keppra for prophylaxis.
   - Maintain SBP < 140.
   - Holding clopidogrel and coumadin after he received vit K and FFP.
   Plan for now is at least 2 weeks off of anticoagulation.
   .
   # Weight loss.  Per daughter, patient has had weight-loss despite
   adequate PO intake.  Prostate cancer apparently diagnosed but with
   unclear management.  PSA is undetectable.  We need to contact his PCP
   to see if any work-up has been done to date.
   - OSH/PCP records for cancer screening.
   - Can begin with CXR for imaging.
   - Guaiac stools as patient has microcytic anemia.
   - TSH.
   - Consider HIV if risk factors present.
   .
   # Confusion.  Patient may have had confusion pre-dating the fatigue
   that was the presenting symptom of this bleed.  No evidence that this
   is infectious CNS disease, so we will defer an LP.  We will try to
   gather more information today from the daughter and roommate.  He will
   likely eventually need higher level care as he was not doing well at
   home before this event.
   - Check TSH and LFTs.
   - If situation remains unclear after gathering information, could
   consider consulting neurology.
   - Eventual [**Hospital1 238**] screening.
   - Eventual OT/PT, possible repeat swallow eval.
   .
   #. CHF. Symptomatically stable, though may have been overloaded on
   initial exam.  He responded well to lasix.
   - Outside records.
   - Lasix prn (particularly with blood products)
   .
   #. s/p mechanical AVR/anticoagulation.  Daughter and patient do not
   know any more details about type of valve.
   - Oustide records.
   - Holding coumadin and reversing INR as above; neuro checks with
   increased risk for acute embolic stroke.
   .
   #. CAD.  Indeterminate troponin at OSH; no ECg changes, CK very low.
   - Recheck ECG today.
   - troponin has been stable at 0.05
   - Holding plavix (on due to ASA allergy)
   .
   # Microcytic anemia.
   - Check Fe studies.
   - Obtain baseline to verify for acute change.
   .
   # DM.  Daughter reports on insulin but unclear how much.
   - med rec in AM when roommate/caretaker comes in.
   - ISS for now.
   .
   FEN: Had difficulty swallowing at baseline, though most recently has
   been off thickened liquids.  Given his cachexia, we will place a
   Dobhoff today to allow the initiation of tube feeds.  He may need
   swallow consult to assess for further decline in swallowing
   capabilities so that we can determine an appropriate diet.
   .
   PPX:
   - Continue home PPI IV for now.
   - DVT ppx with pneumoboots
   .
   ACCESS: PIV's
   .
   CODE STATUS: Discussed with daughter.  Would like all acute care, but
   would probably not want long-term ventilation or intensive care.
   .
   EMERGENCY CONTACT: Daughter [**First Name8 (NamePattern2) 113**] [**Last Name (NamePattern1) 2875**] ([**Telephone/Fax (1) 11182**] or
   [**Telephone/Fax (1) 11183**]).
   .
   DISPOSITION: ICU pending less frequent neuro exams.  Will also initiate
   dispo with case management as he may require long-term placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-11-4**] 11:43 PM
   22 Gauge - [**2148-11-4**] 11:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-06 12:50:00 Physician Attending Progress Note
Chief Complaint: Altered MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling back to baseline
   24 Hour Events:
 BLOOD CULTURED - At [**2148-11-5**] 04:00 PM
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2148-11-6**] 07:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-11-6**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2148-11-6**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.3
   HR: 83 (79 - 106) bpm
   BP: 125/75(86) {99/53(67) - 125/78(88)} mmHg
   RR: 23 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,184 mL
                                                                    387 mL
   PO:
                                                                    100 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    508 mL
                                                                    267 mL
   Blood products:
                                                                    576 mL
   Total out:
                                                                  2,600 mL
                                                                    395 mL
   Urine:
                                                                  2,600 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,416 mL
                                                                     -8 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : few R base, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   260 K/uL
   111 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   22 mg/dL
   98 mEq/L
   134 mEq/L
   27.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2148-11-5**]  04:13 AM
                             [**2148-11-6**]  02:45 AM
   WBC
   6.6
   7.4
   Hct
   27.0
   27.0
   Plt
   240
   260
   Cr
   0.9
   0.8
   TropT
   0.05
   Glucose
   130
   111
   Other labs: PT / PTT / INR:13.5/26.3/1.2, CK / CKMB /
   Troponin-T:24//0.05, ALT / AST:19/25, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:86.9 %, Lymph:11.4 %, Mono:1.4 %, Eos:0.1 %,
   Albumin:2.9 g/dL, LDH:283 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 ATRIAL FIBRILLATION (AFIB)
 .H/O CANCER (MALIGNANT NEOPLASM), PROSTATE
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 INTRACEREBRAL HEMORRHAGE (ICH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   His mental status is now close to baseline. No mass lesion on MR scan.
   He is still having trouble taking po's well.  Seen by Speech &
   Swallow.  Continuing course of rx for aspiration PNA - I suspect pos BC
   is contaminant but will cover with Vanco and draw surveillance cx.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2148-11-4**] 11:43 PM
   20 Gauge - [**2148-11-6**] 10:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes